US05156670
5-[Cyano(dihydro-2(3H)-furanylidene)methyl]-4-(2-methylpropyl)-2-(difluoromethyl)6-(trifluoromethyl)-3-pyridinecarboxylic acid, methyl ester.
To a solution of 5.0 g (14.3 mmol) of 5-(cyanomethyl)4-(2-methylpropyl)-2-(difluoromethyl)-6-(trifluoromethyl)-3-pyridinecarboxylic acid, methyl ester, prepared as in Example d, above, 6.62 g (35.7 mmol) of 4-bromobutyryl chloride and 0.37 g of benzyltriethylammonium chloride in 160 mL dichloromethane was added 82 mL 50% NaOH. The solution turned red and was stirred for 15 min. Stirring was interrupted due to viscosity of solution; 0.5 mL additional 4-bromobutyryl chloride was added to enable stirring. The solution was poured into 175 mL of ice water and extracted with ethyl ether. The organic layer was washed with water, brine, and dried over magnesium sulfate. The solution was filtered through silica gel to give 5.8 g of the crude product as a dark red oil. Purification by chromatography using 30% ethyl acetate in hexanes yielded 1.4 g of the desired product as an oil, a 24% yield. nD25 1.4882.

reactant | 5-(cyanomethyl)4-(2-methylpropyl)-2-(difluoromethyl)-6-(trifluoromethyl)-3-pyridinecarboxylic acid, methyl ester | 14.3 mmol, 5.0 g | C(#N)CC=1C(=C(C(=NC1C(F)(F)F)C(F)F)C(=O)OC)CC(C)C | C15H15F5N2O2
reactant | 4-bromobutyryl chloride | 35.7 mmol, 6.62 g | BrCCCC(=O)Cl | C4H6BrClO
reactant | NaOH | 82 mL | [OH-].[Na+]
reactant | 4-bromobutyryl chloride | 0.5 mL | BrCCCC(=O)Cl | C4H6BrClO
catalyst | benzyltriethylammonium chloride | 0.37 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | dichloromethane | 160 mL | ClCCl | CH2Cl2
product | 5-[Cyano(dihydro-2(3H)-furanylidene)methyl]-4-(2-methylpropyl)-2-(difluoromethyl)6-(trifluoromethyl)-3-pyridinecarboxylic acid, methyl ester | 1.4 g, 24% yield | C(#N)C(C=1C(=C(C(=NC1C(F)(F)F)C(F)F)C(=O)OC)CC(C)C)=C1OCCC1 | C19H19F5N2O3
